*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2222SQ-90N
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-1.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2222SQ-90N_freq port1 port2 PARAMS: Cpar=0.1796pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=93.6
+ R2=0.203
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=604
+ L_EL=56.4
+ L_F0=1050E6
+ PkZ=0
.ends 2222SQ-90N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2222SQ-111
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-1.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2222SQ-111_freq port1 port2 PARAMS: Cpar=0.1352pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=234.6
+ R2=0.248
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=920
+ L_EL=44.4
+ L_F0=1030E6
+ PkZ=0
.ends 2222SQ-111_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2222SQ-131
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-1.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2222SQ-131_freq port1 port2 PARAMS: Cpar=0.0842pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=438.6
+ R2=0.293
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=1030
+ L_EL=44.4
+ L_F0=970E6
+ PkZ=0
.ends 2222SQ-131_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2222SQ-161
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-0.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2222SQ-161_freq port1 port2 PARAMS: Cpar=0.0558pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=828.8
+ R2=0.357
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=1230
+ L_EL=49.2
+ L_F0=1040E6
+ PkZ=0
.ends 2222SQ-161_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2222SQ-181
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-0.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2222SQ-181_freq port1 port2 PARAMS: Cpar=0.1506pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=1179
+ R2=0.362
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=1370
+ L_EL=49.2
+ L_F0=1040E6
+ PkZ=0
.ends 2222SQ-181_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2222SQ-221
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-0.85GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2222SQ-221_freq port1 port2 PARAMS: Cpar=0.0508pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=4375
+ R2=0.488
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=1190
+ L_EL=65.3
+ L_F0=980E6
+ PkZ=0
.ends 2222SQ-221_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2222SQ-271
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-0.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2222SQ-271_freq port1 port2 PARAMS: Cpar=0.0438pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=4855
+ R2=0.6
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=1430
+ L_EL=65.3
+ L_F0=960E6
+ PkZ=0
.ends 2222SQ-271_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2222SQ-301
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2222SQ-301_freq port1 port2 PARAMS: Cpar=0.0026pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=5107
+ R2=0.608
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=1650
+ L_EL=74
+ L_F0=1140E6
+ PkZ=0
.ends 2222SQ-301_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Aircore Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model3B Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L_Z0=1
+ L_EL=1
+ L_F0=1
C1 N002 Lin {C}
R1 Lout N002 {R1}
T1 Lin 0 N003 0 TD={(L_EL/360)/L_F0} Z0={L_Z0}
R2 Lout N003 {R2}
.ends Model3B








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
